US06096710
Gly-Pro-Nleu-NH2
Boc-Gly-Pro-Nleu-NH2 (3.5 g, 0.0089 mol.) was dissolved in a solution of 30% TFA in DCM (50 ml). The solution was stirred for 40 minutes. The DCM and TFA were removed under reduced pressure, and 3×50 ml benzene were added and distilled under reduced pressure to remove trace TFA. The resulting mixture was dissolved in 30 ml methanol and the solution was chilled to 0° C. HCl/dioxane (4N, 10 ml) was added to the solution to transfer the product from TFA salt to HCl salt. Ethyl ether (200 ml) was added to the solution and a precipitation formed. The ether was removed by filtration and a white solid product was obtained (2.9 g, 87%). Analytical RP-HPLC chromatogram, single peak, RT=15.7 min. (5-15% B in 30 min.). FAB-MS, observed (M+H)+ =285. 1H-NMR (500 MHz, DMSO-d6, 25° C., assignment by TOCSY) δ 8.03 (m, 3H, Gly-NH3), 7.65 (s, C-terminal NH2), 7.46 (s, C-terminal NH2), 7.34 (s, C-terminal NH2), 7.24 (d, C-terminal NH2), 7.08 (s, C-terminal NH2), 6.92 (s, C-terminal NH2), 4.94 (d, Pro-α), 4.76 (m, Pro-α), 4.59 (m, Pro-α), 4.25-3.52 (sets of bands, Nleu-α, Gly-α), 3.52-3.44 (m, Pro-δ), 3.42-2.70 (sets of bands, Gly-α, Nleu-β), 2.36-1.65 (sets of bands, Pro-β, Pro-γ, Nleu-γ), 0.90 (m, Nleu-δ), 0.79 (m, Nleu-δ).

reactant | Boc-Gly-Pro-Nleu-NH2 | 0.0089 mol, 3.5 g | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C18H32N4O5
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | Gly-Pro-Nleu-NH2 | NCC(=O)N1[C@H](C(=O)N[C@@H](CCCC)C(=O)N)CCC1 | C13H24N4O3
